US04297301
This time, 10 mmols of N-methyl-2,6-dimethyl-4-pyridone were used and 117 g of phosgene were introduced in the course of 2 and a half hours. A yield of 89% of 2-ethylhexanoyl chloride was obtained, after distillation.

reactant | N-methyl-2,6-dimethyl-4-pyridone | 10 mmols | CN1C(=CC(C=C1C)=O)C | C8H11NO
reactant | phosgene | 117 g | C(=O)(Cl)Cl | CCl2O
product | 2-ethylhexanoyl chloride | yield of 89% | C(C)C(C(=O)Cl)CCCC | C8H15ClO
